US06110958
1-(2,6-Dichloro-4-trifluoromethylphenyl)-3-formylindole
To a solution of 3,5-dichloro-4-fluorobenzotrifluoride (1.0 g) in dimethylformamide (10 ml) was added 3-formylindole (623 mg) and potassium carbonate (593 mg), the mixture was heated at 90° C. for 1.5 hrs. The reaction was cooled to room temperature and diluted with water (200 ml) and extracted with ether (200 ml). The organic fraction was separated and evaporated to dryness to give the title compound as a pale yellow crystaline material, m.p. 167-169° C.

reactant | 3,5-dichloro-4-fluorobenzotrifluoride | 1.0 g | ClC=1C=C(C=C(C1F)Cl)C(F)(F)F | C7H2Cl2F4
reactant | 3-formylindole | 623 mg | C(=O)C1=CNC2=CC=CC=C12 | C9H7NO
reactant | potassium carbonate | 593 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 1-(2,6-Dichloro-4-trifluoromethylphenyl)-3-formylindole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1C=C(C2=CC=CC=C12)C=O | C16H8Cl2F3NO
